US04034101
Dry hydrogen chloride gas was passed into a solution of N-methyl-N'-[2-((4-methyl-5-imidazolyl)methylthio)ethyl]thiourea (73.2 g) in methanol (600 ml) and the mixture was refluxed for 5 hours. Concentration and re-evaporation with isopropyl alcohol afforded a crystalline solid which was recrystallised from isopropyl alcohol-ether to give N,S-dimethyl-N'-[2-((4-methyl-5-imidazolyl)methylthio)ethyl]isothiourea dihydrochloride (96.2 g) m.p. 191°-192°. (isopropyl alcohol-ether).

reactant | hydrogen chloride | Cl | ClH
reactant | N-methyl-N'-[2-((4-methyl-5-imidazolyl)methylthio)ethyl]thiourea | 73.2 g | CNC(=S)NCCSCC1=C(N=CN1)C | C9H16N4S2
reactant | methanol | 600 ml | CO | CH4O
product | N,S-dimethyl-N'-[2-((4-methyl-5-imidazolyl)methylthio)ethyl]isothiourea dihydrochloride | 96.2 g | Cl.Cl.CNC(SC)=NCCSCC1=C(N=CN1)C | InChI=1S/C10H18N4S2.2ClH/c1-8-9(14-7-13-8)6-16-5-4-12-10(11-2)15-3;;/h7H,4-6H2,1-3H3,(H,11,12)(H,13,14);2*1H
